US08802864B2
e) 4-[4-(1-benzofuran-5-yl)phenyl]-5-[(3S)-pyrrolidin-3-ylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one Hydrochloride
In a round bottom flask under nitrogen, a yellow mixture of tert-butyl (3S)-3-({4-[4-(1-benzofuran-5-yl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)pyrrolidine-1-carboxylate (2.58 g, 5.60 mmol) in 4M HCl in dioxane (1.40 mL, 5.60 mmol) was stirred at room temperature for 30 min. The reaction mixture was concentrated in vacuo. Ethanol (300 mL) was added to the flask and the solvent was removed by concentration in vacuo to give the title compound as a cream coloured solid (2.14 g, 96%). MS(ES)+ m/e 361.1 [M+H]+.

reactant | tert-butyl (3S)-3-({4-[4-(1-benzofuran-5-yl)phenyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)pyrrolidine-1-carboxylate | 5.60 mmol, 2.58 g | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NNC2=O)C[C@H]2CN(CC2)C(=O)OC(C)(C)C | C26H28N4O4
reactant | dioxane | 5.60 mmol, 1.40 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 4M | Cl | ClH
product | 4-[4-(1-benzofuran-5-yl)phenyl]-5-[(3S)-pyrrolidin-3-ylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one Hydrochloride | 2.14 g, 96% | Cl.O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@H]2CNCC2)=O | InChI=1S/C21H20N4O2.ClH/c26-21-24-23-20(11-14-7-9-22-13-14)25(21)18-4-1-15(2-5-18)16-3-6-19-17(12-16)8-10-27-19;/h1-6,8,10,12,14,22H,7,9,11,13H2,(H,24,26);1H/t14-;/m0./s1
